* C:\Users\msaya\Documents\Github\Amplifier\pulse Amplifier.asc
V1 Vsup 0 56
R2 Vsup N015 330 pwr=0.5
M§Q2 Vsup Vsup N021 N021 IXTH10P50
M§Q5A N021 N024 N028 N028 BSC340N08NS3
R3 Vsup N004 2.2
R4 Vsup N005 2.2
R5 Vsup N006 2.2
R6 Vsup N007 2.2
R7 Vsup N008 2.2
R8 Vsup N009 2.2
R9 Vsup N010 2.2
R10 Vsup N011 2.2
R11 Vsup N012 2.2
R12 Vsup N013 2.2
C2 N004 N016 0.1µ
C3 N005 N016 0.1µ
C4 N006 N016 0.1µ
C5 N007 N016 0.1µ
C6 N008 N016 0.1µ
C7 N009 N016 0.1µ
C8 N010 N016 0.1µ
C9 N011 N016 0.1µ
C10 N012 N016 0.1µ
C11 N013 N016 0.1µ
R16 N021 N020 4700 pwr=1
C13 N021 N020 68p
D3 0 N020 ES1D
D8 N030 N024 BAT54XV2T1G
R58 N023 N024 220 pwr=0.5
R59 N023 N024 220 pwr=0.5
R22 N023 N024 220 pwr=0.5
R25 N030 N029 4700
R19 N022 0 120
R23 N021 N025 2.2
R20 N020 0 510 pwr=0.5
C18 N025 0 1n
Q1 Vsup N015 Vsup 0 BD139
Q4 N015 N029 N022 0 BD139
Q3 N022 N020 Vsup 0 BD139
Q6 N028 N030 0 0 BD139
D1 Vsup N015 BAT54XV2T1G
C34 N046 0 4.7n
C28 0 N038 0.1µ
C41 N038 0 0.1µ
C42 N038 N038 10p
R48 N046 0 100
R45 N042 N046 100
R49 N046 0 100
R46 N042 N038 100
R36 N038 Vp 2.2
R50 N038 Vn 2.2
R57 N042 0 470
R51 N038 N042 470
CR51 N038 N042 10p
C32 bias1 N038 0.1µ
C29 0 N043 10µ
C27 0 N043 0.1µ
C37 N043 0 10µ
C39 N043 0 0.1µ
C23 N037 0 0.1
R52 N043 Vn 2.2
R55 N050 Vn 2.2
R27 bias1 N037 470
R31 N039 Vp 2.2
R28 N035 bias1 470
R33 N043 Vp 2.2
CR28 N035 bias1 4.7p
C24 N039 0 0.1
C43 0 N050 0.1µ
C26 N039 0 10µ
C40 0 N050 10µ
C30 N044 bias1 0.1µ
C35 N048 bias1 0.1µ
D6.1 N044 bias1 BAT54XV2T1G
D6.2 bias1 N048 BAT54XV2T1G
R53 N048 N050 10k
R38 N039 N044 10k
Q8 N039 N044 N035 0 BD139
Q10 N035 N048 N050 0 BD140
R29 N035 N035 39
R34 N035 N035 39
R40 N035 N035 39
R43 N035 N035 39
C33 bias2 0 0.1µ
C141 N031 N041 10p
R56 N051 Vn 2.2
R32 N040 Vp 2.2
C25 N040 0 0.1µ
C44 0 N051 0.1µ
C126 N040 0 10µ
C140 0 N051 10µ
C31 N045 bias2 0.1µ
C36 N049 bias2 0.1µ
D7.1 N045 bias2 BAT54XV2T1G
D7.2 bias2 N049 BAT54XV2T1G
R54 N049 N051 10k
R39 N040 N045 10k
Q7 N040 N045 N031 0 BD139
Q9 N031 N049 N051 0 BD140
R30 N031 N031 39
R37 N031 N031 39
R41 N031 N031 39
R44 N031 N031 39
R35 N031 N041 220
R42 N041 bias2 220
R47 bias2 N047 220
C142 bias2 N047 60µ V=600 Irms=18.5 Rser=0.0115 Lser=13.4n mfg="Würth Elektronik" pn="890764429002CS WCAP-FTDB 52.5x57x43.5x29.5x4" type="Box"
C38 N047 N038 0.1p
C20 N034 N035 1000000T
C21 N034 N035 60µ V=600 Irms=18.5 Rser=0.0115 Lser=13.4n mfg="Würth Elektronik" pn="890764429002CS WCAP-FTDB 52.5x57x43.5x29.5x4" type="Box"
C143 N026 N032 470p
C17 N026 N032 470p
C16 N027 N033 470p
C144 N027 N033 470p
C19 N036 N031 1000000T
C22 N036 N031 60µ V=600 Irms=18.5 Rser=0.0115 Lser=13.4n mfg="Würth Elektronik" pn="890764429002CS WCAP-FTDB 52.5x57x43.5x29.5x4" type="Box"
R26 N026 N034 270
R24 N027 N036 270
M1 N026 N035 0 0 NMOS
M2 0 N031 N027 N027 NMOS
D4.1 N017 N019 BAT54XV2T1G
D4.2 N019 0 BAT54XV2T1G
D2.1 N002 N014 BAT54XV2T1G
D2.2 N014 N017 BAT54XV2T1G
D9.1 0 N002 BAT54XV2T1G
D9.2 N002 N002 BAT54XV2T1G
R13 N001 0 4.7k
R1 N001 0 120
R14 N003 0 120
R15 bias1 N003 4.7k
R17 N018 0 120
R18 bias2 N018 4.7k
C12 N003 0 0.1µ
C1 N001 0 0.1µ
C14 N018 0 0.1µ
D5.1 Vn N042 BAT54XV2T1G
D5.2 N042 Vp BAT54XV2T1G
C47 Vp 0 10µ
C46 Vp 0 10µ
C45 Vp 0 10µ
C50 Vn 0 10µ
C49 Vn 0 10µ
C48 Vn 0 10µ
C53 Vd 0 10µ
C52 Vd 0 10µ
C51 Vd 0 10µ
L§FB1 Vp 0 3n Ipk=2 Rser=0.064 Rpar=620 Cpar=1.1p mfg="Würth Elektronik" pn="782763621 WE-CBA 1206"
L§FB2 Vn 0 3.5µ Ipk=2.5 Rser=0.06 Rpar=626 Cpar=1.15p mfg="Würth Elektronik" pn="782763601 WE-CBA 1206"
L§FB3 Vd 0 3n Ipk=2 Rser=0.064 Rpar=620 Cpar=1.1p mfg="Würth Elektronik" pn="782763621 WE-CBA 1206"
V2 NC_01 NC_02 V
.model D D
.lib C:\Users\msaya\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\msaya\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\msaya\AppData\Local\LTspice\lib\cmp\standard.mos
.dc V1 0 20 0.01
.lib C:\Users\msaya\Documents\Github\Amplifier\libs\Bib.LIB
.backanno
.end
